US05081287
Under a nitrogen atmosphere, 2.0 grams of 10% palladium on charcoal was weighed into a 500 ml Parr hydrogenation bottle. To the bottle was then added a solution of 11.0 grams (0.037 mole) of 4,6-dibromo-6,6-difluorohexan-1-ol in 75 ml of absolute ethanol. An additional 75 ml of absolute ethanol was used to wash any remaining hexan-1-ol from its container into the hydrogenation bottle. Sodium acetate, 3.1 grams (0.037 mole), was then added to the bottle, and the bottle was placed in the Parr hydrogenator. Upon completion of the uptake of the theoretical amount of hydrogen, the bottle was removed from the hydrogenator, and the contents were filtered. The filtrate was concentrated under reduced pressure to a residual solid. The solid was stirred in 100 ml of pentane, and the mixture was filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was purified by column chromatography on silica gel. Elution was accomplished using methylene chloride followed by ethyl acetate. The appropriate fractions were combined and concentrated under reduced pressure yielding 2.0 grams of 6-bromo-6,6-difluorohexan-1-ol. The nmr spectrum was consistent with the proposed structure.

reactant | 4,6-dibromo-6,6-difluorohexan-1-ol | 0.037 mole, 11.0 grams | BrC(CCCO)CC(F)(F)Br | C6H10Br2F2O
catalyst | palladium on charcoal | 2.0 grams | [Pd] | Pd
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 6-bromo-6,6-difluorohexan-1-ol | 2.0 grams | BrC(CCCCCO)(F)F | C6H11BrF2O
